US06069156
Methyl 3-isobutyryl-2-methoxymethylindole-6-carboxylate (146 mg) was prepared from methyl 2-methoxymethylindole-6-carboxylate (396 mg) and isobutyryl chloride (0.53 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl 2-methoxymethylindole-6-carboxylate | 396 mg | COCC=1NC2=CC(=CC=C2C1)C(=O)OC | C12H13NO3
reactant | isobutyryl chloride | 0.53 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | Methyl 3-isobutyryl-2-methoxymethylindole-6-carboxylate | 146 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)COC | C16H19NO4
